US04556414
Preparation of (S)-3-[N-(α-methylbenzyl)-carbamoyl]-5-methoxymethyl-2,6-dimethylpyridine (Compound No. 90) of the formula:
In a 250 ml round-bottomed flask, (S)-3-[N-(α-methylbenzyl)-carbamoyl]-5-chloromethyl-2,6-dimethylpyridine (21 g), the preparation of which is described in Example 6, is introduced into anhydrous methanol (50 ml). After dissolution, a solution of sodium (5.00 g) in methanol (50 ml) is run in.

reactant | (S)-3-[N-(α-methylbenzyl)-carbamoyl]-5-chloromethyl-2,6-dimethylpyridine | 21 g | C[C@@H](C1=CC=CC=C1)NC(=O)C=1C(=NC(=C(C1)CCl)C)C | C17H19ClN2O
reactant | sodium | 5.00 g | [Na] | Na
reactant | methanol | 50 ml | CO | CH4O
reactant | methanol | 50 ml | CO | CH4O
product | (S)-3-[N-(α-methylbenzyl)-carbamoyl]-5-methoxymethyl-2,6-dimethylpyridine | C[C@@H](C1=CC=CC=C1)NC(=O)C=1C(=NC(=C(C1)COC)C)C | C18H22N2O2
